US07981903B2
To a solution of 1-{3-[4-(1-methylethyl)-1-piperazinyl]propanoyl}-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole (0.62 g, 1.65 mmol) in absolute ethanol (150 mL) and DMA (10 mL) was added tin (II) chloride dihydrate (2.23 g, 7.84 mmol) and 1M HCl(3.0 mL). After overnight stirring, reaction was quenched with excess saturated NaHCO3 solution, stirred for one hr, and filtered through a celite pad which was rinsed with methanol. After organic solvent removal, the aqueous layer was extracted with dichloromethane (2×200 mL), the organic layers were combined, adsorbed to silica gel and purified by column chromatography (DCM to 5% MeOH/DCM+0.1% NH4OH) to afford 1-{3-[4-(1-methylethyl)-1-piperazinyl]propanoyl}-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine. ESIMS (M+H)+=347.

reactant | 1-{3-[4-(1-methylethyl)-1-piperazinyl]propanoyl}-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole | 1.65 mmol, 0.62 g | CC(C)N1CCN(CC1)CCC(=O)N1CCC2=CC(=C(C=C12)[N+](=O)[O-])OC | C19H28N4O4
reactant | tin (II) chloride dihydrate | 7.84 mmol, 2.23 g | O.O.[Sn](Cl)Cl
reactant | HCl | 1M, 3.0 mL | Cl | ClH
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
product | 1-{3-[4-(1-methylethyl)-1-piperazinyl]propanoyl}-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine | CC(C)N1CCN(CC1)CCC(=O)N1CCC2=CC(=C(C=C12)N)OC | C19H30N4O2
